US09387204B2
Step 5: 4-[3-(1,3-thiazol-2-yl)imidazo[1,2-a]pyrimidin-2-yl]benzaldehyde
0.5 g (1.65 mM) 4-(3-bromoimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde is dissolved in 15 mL of 1,4-Dioxane. To this solution is added tetrakis triphenylphosphine palladium (200 mg) 40%. The reaction mixture is heated at 100° C. for 10 min. and 2-(tributylstannyl)-1,3-thiazole is added (681 mg, 1.81 mM). The reaction is heated (oil bath or microwave) at same temp for 5 h. The reaction is cooled to room temperature and 50 mL of water is added and the reaction mixture is extracted with ethyl acetate. The organic layer is dried and concentrated. The crude is purified by flash column chromatography to yield the desired product.

reactant | 4-(3-bromoimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde | 1.65 mM, 0.5 g | BrC1=C(N=C2N1C=CC=N2)C2=CC=C(C=O)C=C2 | C13H8BrN3O
reactant | 2-(tributylstannyl)-1,3-thiazole | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | water | 50 mL | O | H2O
solvent | 1,4-Dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-[3-(1,3-thiazol-2-yl)imidazo[1,2-a]pyrimidin-2-yl]benzaldehyde | S1C(=NC=C1)C1=C(N=C2N1C=CC=N2)C2=CC=C(C=O)C=C2 | C16H10N4OS
